US07598412B2
N-[1-(3,4-Dimethoxy-phenyl)-cyclopentylmethyl]-2-phenylsulfanyl-acetamide
Phenylsulfanyl-acetic acid (33.6 mg, 0.200 mmol) and C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine (47.1 g, 0.200 mmol) were dissolved in acetonitrile (1 mL) containing triethylamine (83.6 μL, 0.600 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (76.0 mg, 0.200 mmol) was added and the solution was allowed to stir for 16 hours. The mixture was then purified by reverse phase preparative liquid chromatography to yield the pure product (11.3 mg, 0.0293 mmol, 14.6%) ESI-MS m/z calc. 385.2, found 386.0 (M+1)+. Retention time of 3.12 minutes.

reactant | Phenylsulfanyl-acetic acid | 0.200 mmol, 33.6 mg | C1(=CC=CC=C1)SCC(=O)O | C8H8O2S
reactant | C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine | 0.200 mmol, 47.1 g | COC=1C=C(C=CC1OC)C1(CCCC1)CN | C14H21NO2
reactant | triethylamine | 0.600 mmol, 83.6 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.200 mmol, 76.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-[1-(3,4-Dimethoxy-phenyl)-cyclopentylmethyl]-2-phenylsulfanyl-acetamide | 0.0293 mmol, 11.3 mg, 14.6% | COC=1C=C(C=CC1OC)C1(CCCC1)CNC(CSC1=CC=CC=C1)=O | C22H27NO3S
